US04602016
Treatment of benzoic acid with N,N'-carbonyldiimidazole and 1-[2-(4-carbamoylphenoxy)ethyl]imidazole in dry N,N-dimethylformamide as described in Example 34 gave 1-[2-(4-benzoylcarbamoylphenoxy)ethyl]imidazole, m.p. 152°-154° C. (from methanol/ethyl acetate). Found: C, 67.66; H, 5.16; N, 12.59. C19H17N3O3 requires: C, 68.05; H, 5.11; N, 12.53%.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[2-(4-carbamoylphenoxy)ethyl]imidazole | C(N)(=O)C1=CC=C(OCCN2C=NC=C2)C=C1 | C12H13N3O2
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-(4-benzoylcarbamoylphenoxy)ethyl]imidazole | C(C1=CC=CC=C1)(=O)NC(=O)C1=CC=C(OCCN2C=NC=C2)C=C1 | C19H17N3O3
